US04814332
5.0 g of 1-(benzylideneamino)-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide are suspended in 300 ml of water. The suspension is then treated with 10 ml of 48 percent hydrobromic acid. The suspension is now subjected to a steam distillation until benzaldehyde no longer results. The solution is evaporated. The residue is treated with ethanol and the solvent is removed by distillation. There is obtained 1-amino-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide as an oil.

reactant | 1-(benzylideneamino)-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide | 5.0 g | [Br-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC(C(C)(C)C)=O)C1=CC=C(C=C1)OC
reactant | hydrobromic acid | 10 ml | Br | BrH
solvent | water | 300 ml | O | H2O
product | 1-amino-2-(p-methoxyphenyl)-3-(pivaloylmethyl)imidazolium bromide | [Br-].N[N+]1=C(N(C=C1)CC(C(C)(C)C)=O)C1=CC=C(C=C1)OC | InChI=1S/C16H22N3O2.BrH/c1-16(2,3)14(20)11-18-9-10-19(17)15(18)12-5-7-13(21-4)8-6-12;/h5-10H,11,17H2,1-4H3;1H/q+1;/p-1
